US04593090
Dinitrogen trioxide gas (0.6 g) was introduced into a solution of 3-isopentyl-3-(n-butyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)urea (2.15 g, 5.23 mmol), synthesized in the above-mentioned way, in a mixture of tetrahydrofuran (50 ml) and acetic acid (8 ml) with well stirring at 0° to 5° C. After continuation of stirring for 2 hours, the resulting solution was vacuum-concentrated at 25° C. and purified by column chromatography (packing: Kiesel gel 60; eluent: chloroform/methanol 10:1), giving 1.44 g of 3-isopentyl-3-(n-butyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea; yield 62.6%, m.p. 66°-68° C., [α]D20 +65.2° (C 1.0, methanol).

reactant | Dinitrogen trioxide | 0.6 g | N(=O)[N+](=O)[O-] | N2O3
reactant | 3-isopentyl-3-(n-butyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)urea | 5.23 mmol, 2.15 g | C(CC(C)C)N(C(NCCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H]([C@@](O)(O1)CCCC)O)O)O)O | C18H35ClN2O7
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
product | 3-isopentyl-3-(n-butyl α-D-glucopyranose-6-yl)-1-(2-chloroethyl)-1-nitrosourea | 1.44 g, yield 62.6% | C(CC(C)C)N(C(N(N=O)CCCl)=O)C([C@@H]1[C@H]([C@@H]([C@H]([C@@](O)(O1)CCCC)O)O)O)O | C18H34ClN3O8
